US06013658
N-tert-Butyloxycarbonylpiperidin-4-carboxylic acid (97 mg; 0.424 mmol) was dissolved in methylene chloride (2 ml). HOAt (58 mg; 0.424 mmol) and EDAC (85 mg; 0.444 mmol) were added. The reaction mixture was stirred 15 min at RT. (2R)-2-Methylamino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-thiocarbamoylethyl)propionamide (17 mg; 0.386 mmol) was dissolved in methylene chloride (2 ml) and added. Diisopropylethylamine (0.073 ml; 0.424 mmol) was added and the reaction mixture was stirred 12 hours at room temperature. Tert-butylmethylether (25 ml) was added and the reaction mixture was washed with water (25 ml), aqueous sodium hydrogencarbonate (15 ml), aqueous sodiumhydrogensulfate (10%; 15 ml), water (15 ml) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3.5×30 cm) using gradient elution, starting with ethyl acetate/heptane (1:1) increasing to ethyl acetate/heptane (2:1) to afford 0.190 g of 4-(N-methyl-N-((1R)-2-(2-naphtyl)-1-((1R)-2-(2-naphthyl)-1-thiocarbamoylethylcarbamoyl)ethyl)carbamoyl)piperidine-1-carboxylic acid tert-butylester.

reactant | N-tert-Butyloxycarbonylpiperidin-4-carboxylic acid | 0.424 mmol, 97 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | HOAt | 0.424 mmol, 58 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDAC | 0.444 mmol, 85 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (2R)-2-Methylamino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-thiocarbamoylethyl)propionamide | 0.386 mmol, 17 mg | CN[C@@H](C(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N)=S)CC1=CC2=CC=CC=C2C=C1 | C27H27N3OS
reactant | Diisopropylethylamine | 0.424 mmol, 0.073 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | Tert-butylmethylether | 25 ml | C(C)(C)(C)OC | C5H12O
product | 4-(N-methyl-N-((1R)-2-(2-naphtyl)-1-((1R)-2-(2-naphthyl)-1-thiocarbamoylethylcarbamoyl)ethyl)carbamoyl)piperidine-1-carboxylic acid tert-butylester | 0.190 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N)=S)=O)C)=O | C38H44N4O4S
